Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
___
 
Attending: ___.
 
Chief Complaint:
abnormal labs
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
This patient is a ___ male with a past medical history 
of hyperlipidemia, hypertension, bipolar disorder who presents 
with anemia. The patient was noted to have a decrease in his 
hematocrit over the past week from 33.7 to 23.7. He is endorsing 
a week to a month progressively worsening fatigue, fatigue on 
exertion, and night sweats. He denies any chest pain. He denies 
any melena or hematochezia. He denies any hemoptysis or 
coffee-ground emesis. He denies any history of liver disease. He 
has been endorsing painless gross hematuria. Urine is dark, but 
not red, looks like coke. This is been occurring for 
approximately one month.
  
In the ED, initial vitals were: 0 98.8 104 129/77 20 100% RA 
Labs notable for stable hematocrit in the ED. The patient was 
also noted to have elevated LFTs. Imaging notable for a negative 
abd/pel CT showing no active bleeding. Patient was admitted to 
the floor with no intervention. 

On the floor,  patient was stable and vitals were normal. 98.3 
134/65 87 16 100RA. The patient had no acute complaints and was 
accompanied by his wife and parents. 
 
Past Medical History:
Hyperlipidemia
Hypertension
Bipolar disorder 
 
Social History:
___
Family History:
Mother ALCOHOL ABUSE 
  ARTHRITIS 
  HYPERTENSION 
  
Father ALLERGIC RHINITIS 
  HYPERTENSION 
  BRAIN TUMOR 
  
Brother ASTHMA 
  ALLERGIC RHINITIS 
 
Physical Exam:
Admission Physical Exam:
========================
Vital Signs: 0 98.8 104 129/77 20 100% RA 
General: Alert, oriented, no acute distress  
HEENT: Scleral icterus noted, MMM, oropharynx clear, EOMI, 
PERRL, neck supple, JVP not elevated, no LAD  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, 2+ reflexes bilaterally, gait 
deferred.
Skin: patient had jaundice appearance  

Discharge Physical Exam:
========================
Vitals: 98.1 127/66 74 16 98% RA
General: alert, oriented, no acute distress  
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs2-12 intact, motor function grossly normal 
 
Pertinent Results:
Admission Labs:
===============
___ 05:56PM BLOOD WBC-7.4 RBC-2.10*# Hgb-7.8*# Hct-22.8*# 
MCV-109*# MCH-37.1*# MCHC-34.2 RDW-14.8 RDWSD-57.2* Plt ___
___ 05:56PM BLOOD Neuts-49.4 ___ Monos-6.6 Eos-1.1 
Baso-0.3 Im ___ AbsNeut-3.66 AbsLymp-3.09 AbsMono-0.49 
AbsEos-0.08 AbsBaso-0.02
___ 05:56PM BLOOD ___
___ 12:17PM BLOOD Glucose-166* UreaN-8 Creat-1.1 Na-138 
K-4.1 Cl-99 HCO3-26 AnGap-17
___ 12:17PM BLOOD ALT-52* AST-37 LD(___)-253* CK(CPK)-50 
AlkPhos-104 TotBili-1.8*
___ 12:17PM BLOOD Albumin-4.7 Calcium-9.6 Phos-3.2 Mg-2.3

Pertinent Labs:
===============
___ 12:17PM BLOOD Hypochr-NORMAL Anisocy-OCCASIONAL 
Poiklo-OCCASIONAL Macrocy-2+ Microcy-NORMAL Polychr-1+ 
Spheroc-OCCASIONAL
___ 05:56PM BLOOD Ret Man-24.8* Abs Ret-0.52*
___ 04:44AM BLOOD Ret Aut-19.6* Abs Ret-0.42*
___ 05:56PM BLOOD QG6PD-18.1*
___ 12:17PM BLOOD ___ 06:30AM BLOOD ___ 12:17PM BLOOD ALT-52* AST-37 LD(___)-253* CK(CPK)-50 
AlkPhos-104 TotBili-1.8*
___ 06:30AM BLOOD ALT-47* AST-37 LD(LDH)-252* AlkPhos-97 
TotBili-1.9* DirBili-0.3 IndBili-1.6
___ 06:30AM BLOOD calTIBC-282 ___ Ferritn-1268* 
TRF-217
___ 05:56PM BLOOD %HbA1c-3.5* eAG-54*
___ 05:56PM BLOOD ___ * Titer-1:40
___ 01:54PM BLOOD PEP-NO SPECIFI
___ 01:54PM BLOOD HIV Ab-Negative

Direct Coombs Negative
Peripheral blood immunophenotyping pending
Urine hemosiderin pending

Imaging:
========
___ CXR:
1. No acute intrathoracic process.
2. 7 mm ovoid opacity projecting over the right midlung may 
represent a
calcified granuloma or bone finding.

___ CTA:
1. No acute CT findings in the abdomen or pelvis to explain the 
patient's
anemia.  No pancreatic mass.
2.  Mild splenomegaly.

Discharge Labs:
===============
___ 04:44AM BLOOD WBC-6.3 RBC-2.08* Hgb-7.8* Hct-23.5* 
MCV-113* MCH-37.5* MCHC-33.2 RDW-14.0 RDWSD-57.1* Plt ___
___ 06:30AM BLOOD ___ PTT-35.2 ___
___ 04:44AM BLOOD Glucose-103* UreaN-11 Creat-1.0 Na-141 
K-3.8 Cl-101 HCO3-25 AnGap-19
___ 04:44AM BLOOD LD(LDH)-228 TotBili-1.8* DirBili-0.3 
IndBili-1.5
___ 04:44AM BLOOD Calcium-9.2 Phos-4.6* Mg-2.___ with a PMH of hyperlipidemia, hypertension, bipolar disorder 
who presented with new onset anemia.

# Anemia: ___ male with a past medical history of 
hyperlipidemia, hypertension, bipolar disorder who presented 
with new onset anemia with a Hg of 7.8 from a normal baseline, 
accompanied by fatigue and night sweats. There was no evidence 
of bleeding. His elevated reticulocyte count to 24, newly 
reduced HbA1c to 3.8, and mildly elevated bilirubin and LD were 
consistent with a recent hemolysis event. Hatoglobin was 
negative and he was not thought to be actively hemolyzing. DAT 
was negative. After CBC remained stable X 2 days with 
downtrending hemolysis labs he was discharged home with plan to 
follow up in ___ clinic in one week. Multiple tests were 
pending at discharge, including peripheral blood 
immunophenotyping for PNH and Coombs negative autoimmune 
hemolytic anemia. Hematology felt that a coombs negative 
autoimmune hemolytic anemia was the most likely diagnosis.

# Bipolar Disorder: continued lamotrigine 150 mg PO DAILY, 
glycopyrrolate 1 mg PO DAILY, aripiprazole 10 mg PO DAILY, and 
venlafaxine XR 300 mg PO DAILY

# HTN: continued amlodipine 10 mg PO DAILY 

# HLD: continued simvastatin 20 mg PO QPM 

# Asthma: continued montelukast 10 mg PO DAILY, albuterol 
Inhaler ___ PUFF IH Q4H:PRN SOB 

# GERD: continued Omeprazole 20 mg PO DAILY

Transitional Issues:
- urine hemosiderin, immunophenotyping (DAT negative autoimmune 
hemolytic anemia), repeat DAT, flow cytometry for PNH, SPEP all 
pending at discharge
- needs hematology follow up. Office will call to schedule an 
appointment
- discharged on 5mg folic acid 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 300 mg PO DAILY 
2. Glycopyrrolate 1 mg PO DAILY 
3. ARIPiprazole 10 mg PO DAILY 
4. amLODIPine 10 mg PO DAILY 
5. Simvastatin 20 mg PO QPM 
6. Montelukast 10 mg PO DAILY 
7. Multivitamins 1 TAB PO DAILY 
8. sildenafil 50 mg oral QHS:PRN ED 
9. Omeprazole 20 mg PO DAILY 
10. Venlafaxine XR 300 mg PO DAILY 
11. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB 

 
Discharge Medications:
1.  FoLIC Acid 5 mg PO DAILY 
RX *folic acid 1 mg 5 tablet(s) by mouth daily Disp #*150 Tablet 
Refills:*0 
2.  Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB  
3.  amLODIPine 10 mg PO DAILY  
4.  ARIPiprazole 10 mg PO DAILY  
5.  Glycopyrrolate 1 mg PO DAILY  
6.  LamoTRIgine 300 mg PO DAILY  
7.  Montelukast 10 mg PO DAILY  
8.  Multivitamins 1 TAB PO DAILY  
9.  Omeprazole 20 mg PO DAILY  
10.  sildenafil 50 mg oral QHS:PRN ED  
11.  Simvastatin 20 mg PO QPM  
12.  Venlafaxine XR 300 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary:
Hemolytic anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because your blood counts were 
low. We think this was because your blood cells were getting 
destroyed. We still do not know exactly why this was happening, 
but we checked special blood tests. These tests are still 
pending.

Because your blood counts have been stable, we think that it is 
now safe for you to go home. We are working on making an 
appointment for you in the ___ clinic. Someone should 
call you with the appointment. If you do not hear from anyone by 
___, please call hematologist Dr. ___ at ___.

If you notice that your urine is getting darker or have any 
other concerning symptoms, you should come back to the ED.

We are sending you home on a new medication called folic acid. 
This is to help your body make new blood cells.

Dr. ___ you to have an endoscopy and colonoscopy to 
look into your stomach and intestines. Her office will also call 
you, but the appointment will probably be on ___ at 9am.

It was a pleasure taking care of you, and we are happy that you 
are feeling better!
 
Followup Instructions:
___